US05091531
a) 4-Oxo-6-(3,4,5-trimethoxyphenethyl)hex-5-enoic acid
A solution of laevulinic acid (50 g, 0.43 mol) in water (200 ml) was added to a mixture of 3,4,5-trimethoxybenzaldehyde (85 g, 0.43 mol) in ethanol (150 ml) and sodium hydroxide solution (5%, 700 ml). The mixture was warmed with vigorous stirring until all the aldehyde had dissolved and was then poured onto ice (ca 2 Kg). It was then acidified to pH3-4 and left overnight. The crystalline material formed was filtered off, dried in vacuo and then recrystallised from ethanol to give pale yellow crystals (30.08 g), m.p. 187°-9°.

reactant | laevulinic acid | 0.43 mol, 50 g | CC(=O)CCC(=O)O | C5H8O3
reactant | 3,4,5-trimethoxybenzaldehyde | 0.43 mol, 85 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | sodium hydroxide | 700 ml | [OH-].[Na+]
product | 4-Oxo-6-(3,4,5-trimethoxyphenethyl)hex-5-enoic acid | 30.08 g | O=C(CCC(=O)O)C=CCCC1=CC(=C(C(=C1)OC)OC)OC | C17H22O6
